US08980326B2
HO-Asp(But)-NH2 (20.0 g, 105.7 mmol) was suspended in 300 mL of anhydrous THF and heated to 50° C. Phosgene (20% in toluene) (105 mL, 211.4 mmol) was added to the amino acid suspension, and the amino acid dissolved over the course of approx. 1 hr, forming a clear solution. The solution was concentrated on by rotary evaporation, transferred to a beaker, and hexane was added to precipitate the product. The white solid was isolated by filtration and dissolved in anhydrous THF. The solution was filtered over a bed of Celite to remove any insoluble material. An excess of hexane was added on the top of the filtrate and the bilayer solution was left in the freezer overnight. The NCA was isolated by filtration and dried in vacuo. 15.0 g (66% yield) of Asp(But) NCA was isolated as a white, crystalline solid. 1H NMR (d6-DMSO) δ 8.99 (1H), 4.61 (1H), 2.93 (1H), 2.69 (1H), 1.38 (9H) ppm.

reactant | HO-Asp(But)-NH2 | 105.7 mmol, 20.0 g | ON[C@@H](CC(OC(C)(C)C)=O)C(=O)N | C8H16N2O4
reactant | Phosgene | 211.4 mmol, 105 mL | C(=O)(Cl)Cl | CCl2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Asp(But) | 15.0 g, 66% yield | N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C8H15NO4
